US04882359
3.04 g of methyl salicylate and 18.4 g of 1,5-dibromopentane were added to a solution of 1.06 g of 50% sodium hydride in toluene, heated to 100° C. for 3 hurs, washed with water, dried, freed from the solvent by distillation off at reduced pressure and then further distilled to obtain an oily substance. A mixture of the thus obtained oily substance and 2.70 g of sodium salt of azacycloheptane-2-one was heated to 100° C. in toluene solvent for 5 hours, washed with water, dried and freed from the solvent by distillation off at reduced pressure and then finally distilled to obtain 4.90 g of colorless 1-[5-(2-methoxycarbonylphenoxy) pentyl] azacycloheptane-2-one having the following appearance, column temperature and analysis:

reactant | methyl salicylate | 3.04 g | C(C=1C(O)=CC=CC1)(=O)OC | C8H8O3
reactant | 1,5-dibromopentane | 18.4 g | BrCCCCCBr | C5H10Br2
reactant | sodium hydride | 1.06 g | [H-].[Na+]
reactant | sodium | 2.70 g | [Na] | Na
reactant | azacycloheptane-2-one | N1C(CCCCC1)=O | C6H11NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-[5-(2-methoxycarbonylphenoxy) pentyl] azacycloheptane-2-one | 4.90 g | COC(=O)C1=C(OCCCCCN2C(CCCCC2)=O)C=CC=C1 | C19H27NO4
